US07652061B2
To a stirred solution of the title B compound, 2-methyl-2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid methyl ester (3.45 g, 9.45 mmol) in methanol (30 mL) is added sodium hydroxide (1.51 g, 37.81 mmol) in water (10 mL) at RT. The reaction mixture is stirred at 70° C. for 4 h. The reaction mixture is concentrated, poured into water, the aqueous layer is separated, washed with ethyl acetate twice, acidified with concentrated HCl and extracted three times with ethyl acetate. The combined ethyl acetate extract is dried over magnesium sulfate and concentrated to give 2-methyl-2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid as a white solid.

reactant | 2-methyl-2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid methyl ester | 9.45 mmol, 3.45 g | COC(C(C)(C1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C)=O | C22H23NO4
reactant | sodium hydroxide | 37.81 mmol, 1.51 g | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-methyl-2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid | CC(C(=O)O)(C)C1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H21NO4
